US07960377B2
Step 1: Methyl 1-(morpholinosulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxylate
Methyl 2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxylate (97 mg, 0.50 mmol) was suspended in 4 mL of DCE and sequentially treated with DMAP (61 mg, 0.50 mmol) and triethylamine (0.077 mL, 0.55 mmol). Morpholine-4-sulfonyl chloride (102 mg, 0.55 mmol) was added and the mixture was stirred at ambient temperature for 2 hours and then heated to 50° C. for 2 days. The mixture was cooled to ambient temperature and diluted with 10 mL of DCM and the whole solution poured into 15 mL of 1M aqueous H3PO4. The layers were separated and the aqueous layer was extracted with 10 mL of DCM. The combined organic phases were dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by normal phase flash chromatography (gradient elution 50% to 100% EtOAc/Hexanes) to provide 88 mg (51%) of the title compound as a thick tan oil. 1H NMR (CDCl3) δ 8.59 (d, 1H), 8.34 (d, 1H), 4.48 (m, 2H), 3.86 (s, 3H), 3.77 (m, 2H), 3.69 (m, 4H), 3.26 (m, 4H). LCMS (+ESI) m/z=344.1 [M+H]+.

reactant | Methyl 2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxylate | 0.50 mmol, 97 mg | N1C2=C(OCC1)N=CC(=C2)C(=O)OC | C9H10N2O3
reactant | triethylamine | 0.55 mmol, 0.077 mL | C(C)N(CC)CC | C6H15N
reactant | Morpholine-4-sulfonyl chloride | 0.55 mmol, 102 mg | N1(CCOCC1)S(=O)(=O)Cl | C4H8ClNO3S
reactant | H3PO4 | 1M, 15 mL | OP(=O)(O)O | H3O4P
solvent | DCE | 4 mL | ClCCCl | C2H4Cl2
catalyst | DMAP | 0.50 mmol, 61 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | Methyl 1-(morpholinosulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxylate | 88 mg, 51% | O1CCN(CC1)S(=O)(=O)N1C2=C(OCC1)N=CC(=C2)C(=O)OC | C13H17N3O6S
